US08058285B2
1.0 g (6.8 mmol) benzoylisocyanate is added to 1.0 g (3.4 mmol) 3-amino-4-methyl-6-phenyl-furo[2,3-b]pyridine-2-carboxylic acid ethyl ester (described in Wagner G., Prantz J. Pharmazie 1990, 45, 213-214) in 20 ml absolute acetone and stirred at room temperature for 30 minutes. The solvent is removed and the precipitate precipitated after the addition of water is sucked off and dried. The resulting precipitate is refluxed with 0.46 g (6.8 mmol) NaOEt and 20 ml ethanol for 15 min. Then, 20 ml water is added, the precipitate is sucked off, washed with some ethanol and dried. 0.85 g (85%) 9-methyl-7-phenyl-pyrido[3′,2′:4,5]furo[3,2-d]pyrimidin-2,4-dione is obtained

reactant | benzoylisocyanate | 6.8 mmol, 1.0 g | C(C1=CC=CC=C1)(=O)N=C=O | C8H5NO2
reactant | 3-amino-4-methyl-6-phenyl-furo[2,3-b]pyridine-2-carboxylic acid ethyl ester | 3.4 mmol, 1.0 g | C(C)OC(=O)C1=C(C=2C(=NC(=CC2C)C2=CC=CC=C2)O1)N | C17H16N2O3
reactant | NaOEt | 6.8 mmol, 0.46 g | CC[O-].[Na+]
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | water | 20 ml | O | H2O
product | 9-methyl-7-phenyl-pyrido[3′,2′:4,5]furo[3,2-d]pyrimidin-2,4-dione | 0.85 g, 85% | CC1=CC(=NC2=C1C=1NC(NC(C1O2)=O)=O)C2=CC=CC=C2 | C16H11N3O3
